US05262540
A mixture of dimethyl 2-[7-(4,5-diphenyl-2-oxazolyl)heptyl]propanedioate (6.00 g, 13 mmol), 5N sodium hydroxide solution (13.4 mL), water (120 mL) and methanol (20 mL) was stirred at room temperature. After 10 minutes, the mixture was heated to reflux for 1 hour before adding water (80 mL,) and 5N NAOH solution (13 mL). After a further 3 hours at reflux, the mixture was cooled, acidified with 2N HCl solution and extracted with diethyl ether. The combined extracts were dried over sodium sulphate and the solvent evaporated to leave a white solid, 2-[7-(4,5-diphenyl-2-oxazolyl)heptyl]propanedioic acid (5.65 g, 100%). An analytical sample was prepared by recrystallizing 1.15 g from a mixture of CH2Cl2, diethyl ether and hexane to give pure product (1.05 g), m.p. 115°-117° C.

reactant | dimethyl 2-[7-(4,5-diphenyl-2-oxazolyl)heptyl]propanedioate | 13 mmol, 6.00 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CCCCCCCC(C(=O)OC)C(=O)OC | C27H31NO5
reactant | sodium hydroxide | 5N, 13.4 mL | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | water | 80 mL | O | H2O
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 120 mL | O | H2O
product | 2-[7-(4,5-diphenyl-2-oxazolyl)heptyl]propanedioic acid | 5.65 g, 100% | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CCCCCCCC(C(=O)O)C(=O)O | C25H27NO5
